US08703793B2
4-(4-Fluorophenyl)-2-(1-methoxyethyl)-7,7-dimethyl-3-(4-(trifluoromethyl)benzoyl)-4,6,7,8-tetrahydroquinolin-5(1H)-one
6.4 g 3-Amino-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-one are dissolved in 25 ml of ethanol, 2.51 ml 4-fluorobenzaldehyde and 3.28 g 5,5-dimethyl-cyclohexane-1,3-dione and 270 mg DL-proline are successively added and the mixture is stirred for 30 minutes at room temperature. Then the mixture is heated for 24 hours to reflux at a dean-stark trap. After cooling to room temperature the solvents are evaporated in vacuo. The residue is chromatographed on silica gel.

reactant | 3-Amino-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-one | 6.4 g | NC(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C(C)OC | C13H14F3NO2
reactant | 4-fluorobenzaldehyde | 2.51 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 5,5-dimethyl-cyclohexane-1,3-dione | 3.28 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | DL-proline | 270 mg | N1C(C(=O)O)CCC1 | C5H9NO2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(4-Fluorophenyl)-2-(1-methoxyethyl)-7,7-dimethyl-3-(4-(trifluoromethyl)benzoyl)-4,6,7,8-tetrahydroquinolin-5(1H)-one | FC1=CC=C(C=C1)C1C(=C(NC=2CC(CC(C12)=O)(C)C)C(C)OC)C(C1=CC=C(C=C1)C(F)(F)F)=O | C28H27F4NO3
